US03998958
The fluoroborate salt of 1-benzyl-2-iminopyrrolidine (6.55 g.; 0.025 mole) is converted to the free base (4.36 g.; 0.025 mole) in the usual manner. After drying over K2CO3, the benzene solution is filtered through diatomaceous earth and 4.13 g. (0.025 mole) of 4-methylthiophenylisocyanate is added. The reaction mixture is stirred at room temperature for 1 hour and then evaporated to dryness in vacuo to give an oil which crystallizes. Recrystallizations from acetone-ether yields the pure product, 1-(1-benzyl-2-pyrrolidylidene)-3-(4 -methylthiophenyl)urea, m.p. = 113°-115° C.

reactant | fluoroborate | F[B-](F)(F)F
reactant | 1-benzyl-2-iminopyrrolidine | 0.025 mole, 6.55 g | C(C1=CC=CC=C1)N1C(CCC1)=N | C11H14N2
reactant | 4-methylthiophenylisocyanate | 0.025 mole | CSC1=CC=C(C=C1)N=C=O | C8H7NOS
product | 1-(1-benzyl-2-pyrrolidylidene)-3-(4 -methylthiophenyl)urea | C(C1=CC=CC=C1)N1C(CCC1)=NC(=O)NC1=CC=C(C=C1)SC | C19H21N3OS
